data/core_train_final.csv
"O=[N+:10]([O-])[N:20]1CN([N+]([O-])=O)CN([N+]([O-])=O)C1.[Ar]>>[Ar].O=[N+:10][O-].[N:20]1CN([N+]([O-])=O)CN([N+]([O-])=O)C1 10,20-10;10,20-20",Heat,Initiation,homolyze
"[CH2:20]=[CH:21]C#N.C1C2CC3CC1C[C:10](C2)C3>>C1C2CC3CC1C[C:10](C2)(C3)[CH2:20][CH:21]C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[CH:20]C1=CC=CC=C1.[Br:10][Br:11]>>C[CH:20](C1=CC=CC=C1)[Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:4][C:3]([CH:5]=[C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12])[C:2](=[O:15])[O-:1]>>[H:4][C:3](=[CH:5][C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12])[C:2](=[O:15])[O-:1] 3-3,5; 5,6-3,5; 5,6-6",Room Temperature,Propagation,resonance
"CC(C)(C)/N=[N:1]/[C:2]([CH3])([CH3])C.[Ar]>>[Ar].[N:1]=NC(C)(C)C.C[C:2]([CH3])[CH3] 1,2-1;1,2-2",Heat,Initiation,homolyze
"[H:1][C:2]([H:3])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1.[H:10][Sn:11]([CH2:12][CH2:13][CH2:14][CH3:15])([CH2:16][CH2:17][CH2:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH3:23]>>[H:1][C:2]([H:3])([H:10])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1.[CH3:15][CH2:14][CH2:13][CH2:12][Sn:11]([CH2:16][CH2:17][CH2:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH3:23] 2-2,10;11,10-2,10;11,10-11",Room Temperature,Propagation,abstraction
"CC([C:10]=O)(C)CC1=CC=C(CC)C=C1.[O:1][O]>>[O][O:1][C:10](C(C)(C)CC2=CC=C(CC)C=C2)=O 1-1,10;10-1,10",Room Temperature,Termination,recombine
"[H:19][C:18](=[CH:17][C:2]([H:1])([H:16])[CH:3]=[CH:4][CH2:5][CH:6]=[CH:7][CH2:8][CH:9]=[CH:10][CH2:11][CH2:12][CH2:13][CH2:14][CH3:15])[CH2:20][CH2:21][CH2:22][C:23](=[O:26])[O:24][H:25].[H:27][C:28](=[CH:42][C:43]([H:46])([CH2:47][CH2:48][CH2:49][C:50](=[O:53])[O:51][H:52])[O:44][O:45])[CH:29]=[CH:30][CH2:31][CH:32]=[CH:33][CH2:34][CH:35]=[CH:36][CH2:37][CH2:38][CH2:39][CH2:40][CH3:41]>>[H:19][C:18](=[CH:17][C:2]([H:1])[CH:3]=[CH:4][CH2:5][CH:6]=[CH:7][CH2:8][CH:9]=[CH:10][CH2:11][CH2:12][CH2:13][CH2:14][CH3:15])[CH2:20][CH2:21][CH2:22][C:23](=[O:26])[O:24][H:25].[H:27][C:28](=[CH:42][C:43]([H:46])([CH2:47][CH2:48][CH2:49][C:50](=[O:53])[O:51][H:52])[O:44][O:45][H:16])[CH:29]=[CH:30][CH2:31][CH:32]=[CH:33][CH2:34][CH:35]=[CH:36][CH2:37][CH2:38][CH2:39][CH2:40][CH3:41] 45-45,16;2,16-45,16;2,16-2",Room Temperature,Propagation,abstraction
"[H:9][Br:8].[CH3:1][C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1>>[H:9].[CH3:1][C:2]1([CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[Br:8] 8,9-2,8;8,9-9;2-2,8",Room Temperature,Propagation,abstraction
"C1=CC=C2C3=C(C=CC=C3)[CH:10]C2=C1.[Br:20][Br:21]>>C1=CC=C2C3=C(C=CC=C3)[CH:10](C2=C1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](C)(C)C(=O)C.CC(C)(CC(CC(C[CH:10]N1CCCC1=O)N2CCCC2=O)N3CCCC3=O)C#N>>[H:20][CH:10](CC(CC(CC(C)(C)C#N)N1CCCC1=O)N2CCCC2=O)N3CCCC3=O.C[C:21](C)C(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:1][O:2][O:3].[Cl:4]>>[O:1][O:2].[O:3][Cl:4] 4-4,3; 2,3-4,3; 2,3-2",Room Temperature,Propagation,abstraction
"[CH2:10]C1CCCC1.[Cl:20][Cl:21]>>C1CCC(C1)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](CC)CBr.[Br:10]>>[H:20][Br:10].CC[CH:21]CBr 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:18][C:17](=[CH:16][CH:15]=[CH2:14])[H:19].[CH3:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3][C:2]([CH3:1])([CH3:13])[S:12]>>[H:18][C:17]([H:19])[CH:16]=[CH:15][CH2:14][S:12][C:2]([CH3:1])([CH3:13])[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11] 12-12,14;14,15-14,12; 14,15-15,16;16,17-15,16;16,17-17",Room Temperature,Propagation,addition
"CCC[C:10](C)C.[Cl:20][Cl:21]>>CCC[C:10](C)(C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1CCCC1.[Br:20][Br:21].[Ar]>>[Ar].CC1CCCC1.[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"CC1CCC[C:20](=[CH2:21])[CH:10]1>>CC1CCC[C:20](=[CH:10]1)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,resonance
"[H:1][C:2]([CH2:15][NH2:16])[NH:3][CH2:4][CH2:5][N+:6]([H:7])([H:14])[CH2:8][CH2:9][NH:10][CH2:11][CH2:12][NH2:13].[CH3:17][C:18](=[CH2:21])[CH:19]=[CH2:20]>>[H:1][C:2]([CH2:21][C:18](=[CH:19][CH2:20])[CH3:17])([CH2:15][NH2:16])[NH:3][CH2:4][CH2:5][N+:6]([H:7])([H:14])[CH2:8][CH2:9][NH:10][CH2:11][CH2:12][NH2:13] 2-2,21; 21,18-2,21; 21,18-18,19; 20,19-18,19; 19,20-20",Room Temperature,Propagation,addition
"CCCCCCCCCCCC(C1CCC1)C(=O)ON2C=CC=C[C:21]2=[S:20].CCCC[Sn:10](CCCC)CCCC>>CCCCCCCCCCCC(C1CCC1)C(=O)ON2C=CC=C[C:21]2[S:20][Sn:10](CCCC)(CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCCCCCC=C[CH:10][CH:20]=[CH:21]CCCCC>>CCCCCCCCC=C[CH:10]=[CH:20][CH:21]CCCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,resonance
"C[CH2:10].O=S(C1=CC=C(C)C=C1)([N:21]([Cl:20])CC=C)=O>>C[CH2:10][Cl:20].O=S(C2=CC=C(C)C=C2)([N:21]CC=C)=O 10-10,20;21,20-10,20;20,21-21",Room Temperature,Propagation,abstraction
